US09119868B2
Lithium hydroxide monohydrate (68.5 mg, 1.630 mmol) was added to a suspension of ethyl 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate (311 mg, 0.543 mmol) in THF:MeOH:water/3:1:1 (10 mL). The mixture was stirred at room temperature overnight. The mixture was acidified with 2N aqueous HCl and the volatile solvents were evaporated. The residue was partitioned between EtOAc and water. The organic layers were washed with brine, dried over sodium sulfate and concentrated to give 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylic acid (309 mg, quantitative) as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.01-8.13 (m, 2H) 7.77 (s, 1H) 7.66 (s, 1H) 7.54 (t, J=1.95 Hz, 1H) 7.39 (dd, J=8.21, 1.37 Hz, 1H) 7.30-7.36 (m, 1H) 7.17-7.26 (m, 3H) 3.27 (s, 3H) 2.11 (s, 1H) 0.74-1.18 (m, 3H) 0.48-0.74 (m, 1H). LCMS (m/z, ES+)=544, 546 (M+H, M+2).

reactant | Lithium hydroxide monohydrate | 1.630 mmol, 68.5 mg | O.[OH-].[Li+]
reactant | ethyl 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate | 0.543 mmol, 311 mg | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C=C1C1CC1 | C27H23BrFNO5S
reactant | MeOH | CO | CH4O
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylic acid | 309 mg | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)O)C=C1C1CC1 | C25H19BrFNO5S
